US06531502B1
A mixture of 5-carboxy-2-oxindole (88.5 mg), indole-2-carbaldehyde (87 mg) (prepared according to Synthetic Communications, 1993, 23, 3109) and piperidine (1 drop) in ethanol (3 mL) was held in a sealed tube at 95° C. for 4 hours. The mixture was cooled to room temperature. The solid was filtered and acidified with 2N hydrochloric acid. The resulting solid was collected by vacuum filtration, washed with cold ethanol and dried in vacuum oven to give 60 mg (40% yield) of 3-(1H-indol-2-ylmethylene)-2-oxo-2,3-dihydro-1H-indole-5-carboxylic acid as a mustard-colored solid.

reactant | 5-carboxy-2-oxindole | 88.5 mg | C(=O)(O)C=1C=C2CC(NC2=CC1)=O | C9H7NO3
reactant | indole-2-carbaldehyde | 87 mg | N1C(=CC2=CC=CC=C12)C=O | C9H7NO
catalyst | piperidine | 1 drop | N1CCCCC1 | C5H11N
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 3-(1H-indol-2-ylmethylene)-2-oxo-2,3-dihydro-1H-indole-5-carboxylic acid | 60 mg, 40% yield | N1C(=CC2=CC=CC=C12)C=C1C(NC2=CC=C(C=C12)C(=O)O)=O | C18H12N2O3
